US07671056B2
EE) Preparation of 5-Fluoro-4-methoxy-8-(4-(4-(6-methoxy-quinolin-8-yl)-piperazin-1-yl)-piperidin-1-yl)-2-trifluoromethyl-quinoline disuccinate salt
The weight of the resulting product was 311 g, or about 91.6% yield. NMR analysis indicated that the compound was the disuccinate salt form of 5-fluoro-4-methoxy-8-(4-(4-(6-methoxy-quinolin-8-yl)-piperazin-1-yl)-piperidin-1-yl)-2-trifluoromethyl-quinoline. In addition, residual solvents were found at concentrations of 0.047% for acetone, 0.027% for THF, and 0.14% for water.

reactant | 5-fluoro-4-methoxy-8-(4-(4-(6-methoxy-quinolin-8-yl)-piperazin-1-yl)-piperidin-1-yl)-2-trifluoromethyl-quinoline | FC1=C2C(=CC(=NC2=C(C=C1)N1CCC(CC1)N1CCN(CC1)C=1C=C(C=C2C=CC=NC12)OC)C(F)(F)F)OC | C30H31F4N5O2
reactant | acetone | CC(=O)C | C3H6O
reactant | THF | C1CCOC1 | C4H8O
reactant | water | O | H2O
product | 5-Fluoro-4-methoxy-8-(4-(4-(6-methoxy-quinolin-8-yl)-piperazin-1-yl)-piperidin-1-yl)-2-trifluoromethyl-quinoline disuccinate salt | C(CCC(=O)O)(=O)O.C(CCC(=O)O)(=O)O.FC1=C2C(=CC(=NC2=C(C=C1)N1CCC(CC1)N1CCN(CC1)C=1C=C(C=C2C=CC=NC12)OC)C(F)(F)F)OC | InChI=1S/C30H31F4N5O2.2C4H6O4/c1-40-21-16-19-4-3-9-35-28(19)24(17-21)39-14-12-37(13-15-39)20-7-10-38(11-8-20)23-6-5-22(31)27-25(41-2)18-26(30(32,33)34)36-29(23)27;2*5-3(6)1-2-4(7)8/h3-6,9,16-18,20H,7-8,10-15H2,1-2H3;2*1-2H2,(H,5,6)(H,7,8)
